US06204264B1
2-(2-Heptadecyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine monohydrochloride (Compound 12)
4N Hydrochloric acid/ethyl acetate solution (0.12 ml) was added to a solution containing 2-(2-heptadecyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine (0.200 g) in ethyl acetate (2 ml). After being stirred for 15 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with the mixed solution of ethanol-ethyl acetate, thereby yielding the entitled compound (0.182 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.12 ml | Cl.C(C)(=O)OCC
reactant | 2-(2-heptadecyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine | 0.200 g | C(CCCCCCCCCCCCCCCC)C1=NC2=C(N1CCN(C)C)C=CC=C2 | C28H49N3
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-Heptadecyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine monohydrochloride | 0.182 g | Cl.C(CCCCCCCCCCCCCCCC)C1=NC2=C(N1CCN(C)C)C=CC=C2 | InChI=1S/C28H49N3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-23-28-29-26-21-19-20-22-27(26)31(28)25-24-30(2)3;/h19-22H,4-18,23-25H2,1-3H3;1H
